US06468607B1
The procedure of Example14 was followed except that 5,6-difluoro-2-bromonaphthalene was used instead of 6-fluoro-2-bromonaphthalene, 4-propylcyclohexaneethanal was used instead of 4-propylcyclohexanone and isomerization with potassium t-butoxide was not effected to obtain 5,6-difluoro-2-[2-(trans-4-propylcyclohexyl)ethyl]naphthalene.

reactant | 5,6-difluoro-2-bromonaphthalene | FC1=C2C=CC(=CC2=CC=C1F)Br | C10H5BrF2
reactant | 4-propylcyclohexaneethanal | C(CC)C1CCC(CC1)CC=O | C11H20O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
product | 5,6-difluoro-2-[2-(trans-4-propylcyclohexyl)ethyl]naphthalene | FC1=C2C=CC(=CC2=CC=C1F)CC[C@@H]1CC[C@H](CC1)CCC | C21H26F2
